US08791146B2
4-{[(6-Amino-3,5-dicyano-4-phenylpyridin-2-yl)sulphanyl]methyl}-N-methylpyridine-2-carboxamide
1 g (3.96 mmol) of 2-amino-4-phenyl-6-sulphanylpyridine-3,5-dicarbonitrile, 0.96 g (4.36 mmol) of 4-(chloromethyl)-N-methylpyridine-2-carboxamide hydrochloride and 1.33 g (15.84 mmol) of sodium bicarbonate are dissolved in 20 ml of DMF and stirred at RT for 2 h. 500 ml of water are added to the reaction mixture. The precipiate is filtered off and washed with water.

reactant | 2-amino-4-phenyl-6-sulphanylpyridine-3,5-dicarbonitrile | 3.96 mmol, 1 g | NC1=NC(=C(C(=C1C#N)C1=CC=CC=C1)C#N)S | C13H8N4S
reactant | 4-(chloromethyl)-N-methylpyridine-2-carboxamide hydrochloride | 4.36 mmol, 0.96 g | Cl.ClCC1=CC(=NC=C1)C(=O)NC
reactant | sodium bicarbonate | 15.84 mmol, 1.33 g | C([O-])(O)=O.[Na+]
reactant | water | 500 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-{[(6-Amino-3,5-dicyano-4-phenylpyridin-2-yl)sulphanyl]methyl}-N-methylpyridine-2-carboxamide | NC1=C(C(=C(C(=N1)SCC1=CC(=NC=C1)C(=O)NC)C#N)C1=CC=CC=C1)C#N | C21H16N6OS
